US07186729B2
2-[5-(3-{4-[(4-Chloro-benzyl)ethyl-amino]-piperidin-1-yl}-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol
To a solution of (4-chloro-benzyl)-ethyl-piperidin-4-yl-amine hydrochloride (0.200 g, 0.83 mmol) in acetonitrile/water (8:2) (8 mL) was added K2CO3 (0.476 g, 3.4 mmol) and 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol (0.282 g, 7.5 mmol). The solution was allowed to stir at room temperature for 48 h. The reaction was concentrated and partitioned between EtOAc/H2O, extracted with EtOAc (3×). The organics were collected, dried over MgSO4, filtered and evaporated in vacuo, then purified by Biotage flash chromatography (5% methanol/95% methylene chloride to 10% methanol/90% methylene chloride) to yield the title compound (0.240 g, 60%). 1H-NMR (CDCl3): δ 0.988 (t, 3H), 1.57 (s, 6H), 1.67 (d, 2H), 1.85 (t, 2H), 2.32–2.46 (m, 5H), 2.51 (q, 2H), 2.84 (d, 2H), 3.47 (s, 2H), 3.56 (s, 2H), 5.29 (bs, 2H), 6.07 (t, 1H), 6.80 (d, 1H), 7.21–7.28 (m, 6H), 7.42 (s, 1H), 7.56 (d, 1H), 8.48 (d, 1H). ESI-MS m/z: 546 (M+1), retention time 1.87.

reactant | (4-chloro-benzyl)-ethyl-piperidin-4-yl-amine hydrochloride | 0.83 mmol, 0.200 g | Cl.ClC1=CC=C(CN(C2CCNCC2)CC)C=C1
reactant | K2CO3 | 3.4 mmol, 0.476 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-[5-(3-bromo-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 7.5 mmol, 0.282 g | BrCCC=C1C2=C(OCC3=C1C=CC=N3)C=CC(=C2)C(C)(C)O | C19H20BrNO2
reactant | acetonitrile water | 8 mL | C(C)#N.O
product | 2-[5-(3-{4-[(4-Chloro-benzyl)ethyl-amino]-piperidin-1-yl}-propylidene)-5,11-dihydro-10-oxa-1-aza-dibenzo[a,d]cyclohepten-7-yl]-propan-2-ol | 0.240 g, 60% | ClC1=CC=C(CCCNC2CCN(CC2)CCC=C2C3=C(OCC4=C2C=CC=N4)C=CC(=C3)C(C)(C)O)C=C1 | C33H40ClN3O2
